US06297250B1
2,6-Di(−2′-methoxyethoxy)-4,8-dipiperidinopyrimidopyrimidine (NU3093)
2-Methoxyethanol (0.38 g, 5 mmol) was dissolved in dry THF (5 ml) and added to sodium hydride (0.12 g, 5 mmol) and stirred for 8 hours at room temperature. 2,6-dichloro-4,8-dipiperidinopyrimidopyrimidine (0.184 g, 0.5 mmol) in dry THF (10 ml) was added to this and the mixture heated under reflux for 32 hours. After cooling to room temperature, water (30 ml) was added and the product extracted into ethyl acetate (4×20 ml), the organic layers combined, dried (MgSO4), filtered and the solvent removed in vacuo. Recrystallisation from methanol/water yielded the title compound as a white solid (0.076 g, 34%), m.p. 127-128° C. Found C, 59.31; H, 7.60; N, 18.80. C22H34N6O4 requires C, 59.17; H, 7.67; N, 18.82%.

reactant | 2-Methoxyethanol | 5 mmol, 0.38 g | COCCO | C3H8O2
reactant | sodium hydride | 5 mmol, 0.12 g | [H-].[Na+]
reactant | 2,6-dichloro-4,8-dipiperidinopyrimidopyrimidine | 0.5 mmol, 0.184 g | ClC=1N=C(C2=C(C(=NC(=N2)Cl)N2CCCCC2)N1)N1CCCCC1 | C16H20Cl2N6
reactant | water | 30 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2,6-Di(−2′-methoxyethoxy)-4,8-dipiperidinopyrimidopyrimidine | 0.076 g, 34% | COCCOC=1N=C(C2=C(C(=NC(=N2)OCCOC)N2CCCCC2)N1)N1CCCCC1 | C22H34N6O4
